US08440830B2
N2-(2-aminophenyl)-N6-pyridin-3-yl-4,7-dihydrothieno[2,3-c]pyridine-2,6(5H)-dicarboxamide
To a solution of N-(2-aminophenyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridine-2-carboxamide (1.0 eq) in DMF was added Et3N (3.0 eq.) followed by pyridin-3-yl-carbamic acid 4-nitro-phenyl ester (1.0 eq) and reaction was stirred at room temperature overnight. Reaction mixture was then quenched with water and extracted with dichloromethane. The organic layer was separated, dried over anhydrous sodium sulfate, concentrated under reduced pressure to afford crude product, which, on purification by column chromatography afforded the title compound.

reactant | N-(2-aminophenyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridine-2-carboxamide | 1.0 eq | NC1=C(C=CC=C1)NC(=O)C1=CC2=C(CNCC2)S1 | C14H15N3OS
reactant | Et3N | 3.0 eq. | CCN(CC)CC | C6H15N
reactant | pyridin-3-yl-carbamic acid 4-nitro-phenyl ester | 1.0 eq | [N+](=O)([O-])C1=CC=C(C=C1)OC(NC=1C=NC=CC1)=O | C12H9N3O4
solvent | DMF | CN(C)C=O | C3H7NO
product | N2-(2-aminophenyl)-N6-pyridin-3-yl-4,7-dihydrothieno[2,3-c]pyridine-2,6(5H)-dicarboxamide | NC1=C(C=CC=C1)NC(=O)C1=CC2=C(CN(CC2)C(=O)NC=2C=NC=CC2)S1 | C20H19N5O2S
